US08252755B2
Preparation of cholesterol 2,3-dihydroxypropylcarbamate (XVII)
3-Amino-1,2-propanediol (2.0 g, 22.0 mmoles) is coevaporated twice with dry pyridine (50 mL each) then dissolved in dry pyridine (147 mL). The solution is stirred in an ice bath, and a solution of cholesteryl chloroformate (10.4 g, 23.1 mmoles) in toluene (50 mL) is added dropwise over 30 minutes. After addition, the ice bath is removed and the reaction mixture is stirred at ambient temperature for 16 hours. The solution is then evaporated, and the residue is coevaporated twice with toluene (50 mL each). The crude product is purified on silica gel (300 mL bed volume) eluting with hexanes:acetone (90:10 [v/v], 1000 mL; then 85:15 [v/v], 1000 mL; then 70:30 [v/v], 1000 mL; then 65:35 [v/v], 1000 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to syrup which is dried well in vacuo. The yield is 5.7 g (51%).

reactant | 3-Amino-1,2-propanediol | 22.0 mmoles, 2.0 g | NCC(CO)O | C3H9NO2
reactant | cholesteryl chloroformate | 23.1 mmoles, 10.4 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
solvent | pyridine | 147 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | cholesterol 2,3-dihydroxypropylcarbamate | OC(CNC(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)CO | C31H53NO4
